US04382951
(b) Trans,trans-6,6-dimethyl-2,4-heptadien-1-ol
2 g Trans,trans-6,6-dimethyl-2,4-heptadienal are dissolved in ethanol and reacted at room temperature with 275 mg NaBH4 in successive portions. After stirring for ca. 1 hour at room temperature the mixture is concentrated on a rotary evaporator, the residue partitioned between ethyl acetate and saturated aqueous NaHCO3 and the organic phase dried and concentrated under vacuum. The oily crude product is further reacted directly.

reactant | Trans,trans-6,6-dimethyl-2,4-heptadienal | 2 g | CC(/C=C/C=C/C=O)(C)C | C9H14O
reactant | NaBH4 | 275 mg | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Trans,trans-6,6-dimethyl-2,4-heptadien-1-ol | CC(/C=C/C=C/CO)(C)C | C9H16O
